US09315458B2
To a solution of methyl 2-ethenyl-3-fluoro-4-methoxy-5-[4-(1H-pyrazol-1-yl)benzyl]benzoate (0.12 g) in a mixed solvent of acetone (2.00 mL)-acetonitrile (2.00 mL)-water (2.00 mL) were added osmium oxide (fixed catalyst I) (0.04 g) and sodium periodate (0.35 g), and the mixture was stirred at room temperature for 3 hr under argon atmosphere. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. To the residue was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give methyl 3-fluoro-2-formyl-4-methoxy-5-[4-(1H-pyrazol-1-yl)benzyl]benzoate as a crude product. The obtained crude product (20% v/v) was dissolved in THF (2.00 mL), (tetrahydrofuran-2-yl)methanamine (0.006 g) was added thereto, and the mixture was stirred at room temperature for 1 hr. The reaction solution was concentrated under reduced pressure, and the residue was diluted with acetic acid (1.00 mL). Sodium triacetoxyborohydride (0.03 g) was added thereto, and the mixture was stirred overnight at room temperature. The reaction mixture was neutralized with saturated aqueous sodium hydrogencarbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by HPLC (water/acetonitrile, containing 0.1% TFA). The fractions were combined, saturated aqueous sodium hydrogencarbonate solution was added thereto, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (2.90 mg).

reactant | methyl 2-ethenyl-3-fluoro-4-methoxy-5-[4-(1H-pyrazol-1-yl)benzyl]benzoate | 0.12 g | C(=C)C1=C(C(=O)OC)C=C(C(=C1F)OC)CC1=CC=C(C=C1)N1N=CC=C1 | C21H19FN2O3
reactant | acetone | 2.00 mL | CC(=O)C | C3H6O
reactant | acetonitrile | 2.00 mL | C(C)#N | C2H3N
reactant | sodium periodate | 0.35 g | I(=O)(=O)(=O)[O-].[Na+]
catalyst | osmium oxide | [Os]=O
catalyst | osmium oxide | 0.04 g | [Os]=O
solvent | water | 2.00 mL | O | H2O
product | methyl 3-fluoro-2-formyl-4-methoxy-5-[4-(1H-pyrazol-1-yl)benzyl]benzoate | FC=1C(=C(C(=O)OC)C=C(C1OC)CC1=CC=C(C=C1)N1N=CC=C1)C=O | C20H17FN2O4
